US06610723B2
[1-(2,2-Difluoro-benzo[1,3]dioxol-5-yl)-1H-imidazol-4-yl]-methanol
Following the general method described in example 293, 2,2-difluoro-benzo[1,3]dioxol-5-ylamine was reacted with triethyl orthoformate, ethyl nitroacetate and acetic acid followed by treatment with triethyl orthoformate, iron and acetic acid and subsequent alkaline hydrolysis. The isolated acid was directly reduced according to example 264, by reaction with BH3 THF complex followed by hydrolytic workup and the title compound was obtained as a light brown solid. Mp. 163-164° C. (H2O), MS: m/e=254 (M+).

reactant | 2,2-difluoro-benzo[1,3]dioxol-5-ylamine | FC1(OC2=C(O1)C=CC(=C2)N)F | C7H5F2NO2
reactant | triethyl orthoformate | C(OCC)(OCC)OCC | C7H16O3
reactant | ethyl nitroacetate | [N+](=O)([O-])CC(=O)OCC | C4H7NO4
reactant | acetic acid | C(C)(=O)O | C2H4O2
catalyst | iron | [Fe] | Fe
product | [1-(2,2-Difluoro-benzo[1,3]dioxol-5-yl)-1H-imidazol-4-yl]-methanol | FC1(OC2=C(O1)C=CC(=C2)N2C=NC(=C2)CO)F | C11H8F2N2O3
